US05925624
(1S-trans)-3-(N,N-Dimethylamino)cyclopentylamine dihydrochloride salt.
(1S-trans)-[3-(N,N-Dimethylamino)cyclopentyl]carbamic acid 1,1-dimethylethyl ester (0.537 g, 2.35 mmol) in 1,4-dioxan (4 ml) was treated with a saturated solution of hydrogen chloride in 1,4-dioxan (15 ml) and additional 1,4-dioxan (8 ml). After 50 minutes at 21° C., another portion of a saturated solution of hydrogen chloride in 1,4-dioxan (5 ml) was added, and after a further 2.5h, the opaque solution was concentrated by evaporation to give the title compound as a beige solid, which was used without characterisation.

reactant | (1S-trans)-[3-(N,N-Dimethylamino)cyclopentyl]carbamic acid 1,1-dimethylethyl ester | 2.35 mmol, 0.537 g | CC(C)(C)OC(N[C@@H]1C[C@H](CC1)N(C)C)=O | C12H24N2O2
reactant | hydrogen chloride | Cl | ClH
solvent | 1,4-dioxan | 4 ml | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxan | 15 ml | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxan | 8 ml | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxan | 5 ml | O1CCOCC1 | C4H8O2
product | (1S-trans)-3-(N,N-Dimethylamino)cyclopentylamine dihydrochloride salt | Cl.Cl.CN(C)[C@@H]1C[C@H](CC1)N | InChI=1S/C7H16N2.2ClH/c1-9(2)7-4-3-6(8)5-7;;/h6-7H,3-5,8H2,1-2H3;2*1H/t6-,7-;;/m0../s1
